US07598285B2
4-{(1S)-1-[3-[2-Fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoic acid (2.93 g, 5.48 mmol), beta-alanine t-butyl ester hydrochloride (2.73 g, 15 mmol), and DIEA (3.5 ml, 20 mmol) were dissolved in DMF (35 ml), followed by slow addition of PyBOP (2.93 g, 5.62 mmol) in DMF (10 ml). The reaction was stirred for 10 min, and diluted with ethyl acetate (200 ml), washed with 1N HCl 2×, 5% K2CO3 2×, and brine 2×. The solvent was evaporated and resulting residue was purified by flash chromatography (SiO2, 0-6% ethyl acetate in DCM gradient) to give tert-butyl N-(4-{(1S)-1-[3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoyl)-β-alaninate as a dry foam. NMR (500 MHz, DMSO-d6) δ: 1.35 (s, 9H); 1.92 (d, J=6.9 Hz, 3H); 2.44 (t, J=7.0 Hz, 2H); 3.41 (q, J=7.0 Hz, 2H); 3.89 (s, 3H); 5.80 (q, J=6.9 Hz, 1H); 6.94 (d, JF-H=3.8 Hz, 1H); 7.21 (d, J=8.3 Hz, 2H); 7.22 (dd, J=2.6 Hz, 9.0 Hz, 1H); 7.39 (d, J=2.6 Hz, 1H); 7.44 (dd, J=2.6 Hz, 8.5 Hz, 1H); 7.58 (t, J=9.7 Hz, 1H); 7.72 (d, J=8.3 Hz, 2H); 7.79 (m, 1H); 7.83 (d, J=9.0 Hz, 1H); 7.89 (d, J=2 Hz, 1H); 7.90 (d, J=8.5 Hz, 1H); 8.33 (dd, J=2.8 Hz, 6.6 Hz, 1H); 8.44 (t, J=5.5 Hz, NH). MS C37H35F4N3O4 Cald: 661.26; Obsd (M+1): 662.29.

reactant | 4-{(1S)-1-[3-[2-Fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoic acid | 5.48 mmol, 2.93 g | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(=C1)C1=CC2=CC=C(C=C2C=C1)OC)[C@@H](C)C1=CC=C(C(=O)O)C=C1 | C30H22F4N2O3
reactant | beta-alanine t-butyl ester hydrochloride | 15 mmol, 2.73 g | Cl.C(C)(C)(C)OC(CCN)=O
reactant | DIEA | 20 mmol, 3.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 5.62 mmol, 2.93 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl N-(4-{(1S)-1-[3-[2-fluoro-5-(trifluoromethyl)phenyl]-5-(6-methoxy-2-naphthyl)-1H-pyrazol-1-yl]ethyl}benzoyl)-β-alaninate | FC1=C(C=C(C=C1)C(F)(F)F)C1=NN(C(=C1)C1=CC2=CC=C(C=C2C=C1)OC)[C@@H](C)C1=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C1 | C37H35F4N3O4
